US06380218B1
2-(3-Iodo-phenoxy)-nicotinic acid benzyl ester
A solution 2-Chloro-nicotinic acid benzyl ester (1.7 grams, 6.86 mmole), cesium carbonate (4.5 grams, 13.7 mmole) and 3-iodophenol (1.7 grams, 7.54 mmole) in dimethylformamide (20 ml) was stirred for 2 hours at 70-80° C. The mixture was poured into 150 ml water and extracted with diethyl ether. The combined extracts were washed with water and brine, dried over MgSO4, filtered, and concentrated to an oil which was purified via flash chromatography on silica using 30% ethyl acetate/hexane as eluent (2.32 g). MW 431.24; MS (m/e) 432 (M++1).

reactant | 2-Chloro-nicotinic acid benzyl ester | 6.86 mmole, 1.7 grams | C(C1=CC=CC=C1)OC(C1=C(N=CC=C1)Cl)=O | C13H10ClNO2
reactant | cesium carbonate | 13.7 mmole, 4.5 grams | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-iodophenol | 7.54 mmole, 1.7 grams | IC=1C=C(C=CC1)O | C6H5IO
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(3-Iodo-phenoxy)-nicotinic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=C(N=CC=C1)OC1=CC(=CC=C1)I)=O | C19H14INO3
